US08211402B2
2-((pyridin-2-ylmethyl)(8-(3-(4-sulfamoylphenyl)thioureido)octyl)amino)acetic acid. A solution of tert-butyl 2-((8-(tert-butoxycarbonylamino)octyl)(pyridin-2-ylmethyl)amino)acetate (0.449 g, 1.0 mmol) in DCM (4 mL) and TFA (4.0 mL) was stirred at room temperature for overnight. The solvent was evaporated to afford 2-((8-aminooctyl)(pyridin-2-ylmethyl)amino)acetic acid. A solution of the above product 2-((8-aminooctyl)(pyridin-2-ylmethyl)amino)acetic acid, 4-isothiocyanatobenzenesulfonamide (0.278 g, 1.3 mmol) in CH3CN (40 mL) and DIPEA (3.0 mL) was stirred at 50° C. under nitrogen for 48 h. The solvent was evaporated under reduced pressure to give a crude product, which was purified by Amberchrom™ eluting with acetonitrile/water to give 2-((pyridin-2-ylmethyl)(8-(3-(4-sulfamoylphenyl)thioureido)octyl)amino)acetic acid (0.500 g) as a colorless oil. 1H NMR (400 MHz, DMSO-d6) δ 9.84 (s, 1H), 8.65 (d, J=4.4 Hz, 1H), 8.11 (s, 1H), 7.94 (td, J=7.6, 1.6 Hz, 1H), 7.70 (d, J=8.8 Hz, 2H), 7.63 (d, J=8.8 Hz, 2H), 7.57 (d, J=7.6 Hz, 1H), 7.50-7.47 (m, 1H), 7.26 (s, 2H), 4.53 (s, 2H), 4.14 (s, 2H), 3.44-3.40 (m, 2H), 3.14-3.08 (m, 2H), 1.64-1.24 (m, 1 H); ESMS m/z: 508.3 (M+H)+.

reactant | 2-((8-aminooctyl)(pyridin-2-ylmethyl)amino)acetic acid | NCCCCCCCCN(CC(=O)O)CC1=NC=CC=C1 | C16H27N3O2
reactant | 4-isothiocyanatobenzenesulfonamide | 1.3 mmol, 0.278 g | N(=C=S)C1=CC=C(C=C1)S(=O)(=O)N | C7H6N2O2S2
solvent | CH3CN | 40 mL | CC#N | C2H3N
solvent | DIPEA | 3.0 mL | CCN(C(C)C)C(C)C | C8H19N
product | 2-((pyridin-2-ylmethyl)(8-(3-(4-sulfamoylphenyl)thioureido)octyl)amino)acetic acid | 0.500 g | N1=C(C=CC=C1)CN(CC(=O)O)CCCCCCCCNC(=S)NC1=CC=C(C=C1)S(N)(=O)=O | C23H33N5O4S2
